US07888352B2
2-Chloro-7-methyl-4-morpholinothieno[3,2-d]pyrimidine-6-carbaldehyde (495 mg) was reacted with Boc-piperazine via General Procedure B-3 to give tert-butyl 4-((2-chloro-7-methyl-4-morpholinothieno[3,2-d]pyrimidin-6-yl)methyl)piperazine-1-carboxylate.

reactant | 2-Chloro-7-methyl-4-morpholinothieno[3,2-d]pyrimidine-6-carbaldehyde | 495 mg | ClC=1N=C(C2=C(N1)C(=C(S2)C=O)C)N2CCOCC2 | C12H12ClN3O2S
reactant | Boc-piperazine | C(=O)(OC(C)(C)C)N1CCNCC1 | C9H18N2O2
product | tert-butyl 4-((2-chloro-7-methyl-4-morpholinothieno[3,2-d]pyrimidin-6-yl)methyl)piperazine-1-carboxylate | ClC=1N=C(C2=C(N1)C(=C(S2)CN2CCN(CC2)C(=O)OC(C)(C)C)C)N2CCOCC2 | C21H30ClN5O3S
